US09403815B2
Synthesis of 6-(1-ethoxyvinyl)-2-methoxy-3-(4-methyl-1H-imidazol-1-yl)pyridine
1-Ethoxyvinyltri-n-butyltin (3.7 mL) was added to a suspension of 6-bromo-2-methoxy-3-(4-methyl-1H-imidazole-1-yl)pyridine (2.66 g) and bis(triphenylphosphine)palladium (II) chloride (350 mg) in dioxane (25 mL), and the mixture was stirred at 100° C. for five hours and 45 minutes. The reaction solution was left to cool to room temperature and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography. The target fraction was concentrated. The resulting powder was triturated with diethyl ether-n-hexane and dried under reduced pressure to obtain 1.57 g of the title compound. Then, the mother liquor was concentrated to obtain 858 mg of the title compound. The property values of the compound are as follows: 1H-NMR (CDCl3) δ (ppm): 1.45 (t, J=7.2 Hz, 3H), 2.30 (s, 3H), 3.98 (q, J=7.2 Hz, 2H), 4.04 (s, 3H), 4.38 (d, J=1.6 Hz, 1H), 5.48 (d, J=1.6 Hz, 1H), 6.97 (s, 1H), 7.38 (d, j=8.0 Hz, 1H), 7.52 (d, J=8.0 Hz, 1H), 7.78 (s, 1H).

reactant | 1-Ethoxyvinyltri-n-butyltin | 3.7 mL | C(C)OC(=C)[Sn](CCCC)(CCCC)CCCC
reactant | 6-bromo-2-methoxy-3-(4-methyl-1H-imidazole-1-yl)pyridine | 2.66 g | BrC1=CC=C(C(=N1)OC)N1C=NC(=C1)C | C10H10BrN3O
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium (II) chloride | 350 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 6-(1-ethoxyvinyl)-2-methoxy-3-(4-methyl-1H-imidazol-1-yl)pyridine | 1.57 g | C(C)OC(=C)C1=CC=C(C(=N1)OC)N1C=NC(=C1)C | C14H17N3O2
